US09193693B2
Step 3. 3-(2-Bromo-5-methoxyphenyl)propan-1-amine
Into a 250-mL round-bottom flask, was placed a solution of 3-(2-bromo-5-methoxyphenyl)propanenitrile (2.39 g, 10.00 mmol, 1.00 equiv) in tetrahydrofuran (40 mL). This was followed by the addition of BH3 solution in tetrahydrofuran (30 mL, 3.00 equiv) dropwise with stirring at 0° C. The resulting solution was stirred for 6 hs at 20° C. in an oil bath. The reaction was then quenched by the addition of water. The resulting solution was concentrated under vacuum. The residue was diluted in water. The pH value of the aqueous solution was adjusted to 8-9 with 1N sodium hydroxide. The resulting aqueous solution was extracted with 10×50 mL of dichloromethane. The organic layers was combined and dried over anhydrous sodium sulfate and concentrated under vacuum. This resulted in 2.23 g (crude) of 3-(2-bromo-5-methoxyphenyl)propan-1-amine as yellow oil.

reactant | 3-(2-bromo-5-methoxyphenyl)propanenitrile | 10.00 mmol, 2.39 g, 1.00 equiv | BrC1=C(C=C(C=C1)OC)CCC#N | C10H10BrNO
solvent | tetrahydrofuran | 40 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 30 mL, 3.00 equiv | O1CCCC1 | C4H8O
product | 3-(2-Bromo-5-methoxyphenyl)propan-1-amine | BrC1=C(C=C(C=C1)OC)CCCN | C10H14BrNO
